* ==========================================================================
* @part: 74HC14 (14-pin package)
* @family: logic
* @source: ngspice
* @url: https://ngspice.sourceforge.io/modelparams.html
* @retrieved: 2026-09-24
* @licence: none stated
* @added-by: nav
* ==========================================================================
* ngspice KiCad multi-device 74xx model

.subckt 74HC14M 1 2 3 4 5 6 7 8 9 10 11 12 13 14

.SUBCKT 74HC14  1A  1Y
+     optional: DPWR=$G_DPWR DGND=$G_DGND
+     params: MNTYMXDLY=0 IO_LEVEL=0
U1 inv DPWR DGND
+     1A  1Y
+     DLY_HC14 IO_HC_ST MNTYMXDLY={MNTYMXDLY} IO_LEVEL={IO_LEVEL}
.model DLY_HC14 ugate (tplhTY=12ns tplhMX=25ns tphlTY=12ns tphlMX=25ns)
.ENDS  74HC14


X1 1 2 74HC14
X2 3 4 74HC14
X3 5 6 74HC14
X4 9 8 74HC14
X5 11 10 74HC14
X6 13 12 74HC14

.ends